US05922771
3-(3-Fluoro-4-methoxyphenyl)propionic acid
To a solution of ethyl 3-(3-fluoro-4-methoxyphenyl)propionate (29.1 g, 129 mmol) in ethanol(50 ml)-water(50 ml) was added potassium hydroxide (9.4 g, 167 mmol) and the mixture was stirred at 80° C. for 1 hour. After cooling, the reaction mixture was poured in diluted hydrochloric acid and the resulting crystals were recovered by filtration and washed with diethyl ether to provide the title compound (yield 24.4 g, 96%).

reactant | ethyl 3-(3-fluoro-4-methoxyphenyl)propionate | 129 mmol, 29.1 g | FC=1C=C(C=CC1OC)CCC(=O)OCC | C12H15FO3
reactant | water | 50 ml | O | H2O
reactant | potassium hydroxide | 167 mmol, 9.4 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
product | 3-(3-Fluoro-4-methoxyphenyl)propionic acid | yield 24.4 g, 96% | FC=1C=C(C=CC1OC)CCC(=O)O | C10H11FO3
